US07425568B2
b) 2-(2-Phenylchroman-6-yloxy)-aniline
2-Nitro-1-(2-phenylchroman-6-yloxy)-benzene (0.160 g) was mostly dissolved in 30 ml of glacial acetic acid. Zinc powder (1.190 g) was added in few portions and the mixture was stirred for 90 minutes at room temperature. The zinc was filtered and washed with glacial acetic acid and evaporated. The evaporation residue was taken up with toluene and evaporated again. The residue was dissolved in CH2Cl2 and washed with IM NaOH. NaOH solution was further washed with CH2Cl2. Both organic fractions were combined and dried over Na2SO4. The purification of the crude product was done by elution in CH2Cl2 through a small silica column. 1H-NMR (400 MHz; d6-DMSO): δ 7.45-7.28 (m, 5H), 6.89-6.83 (m, 1H), 6.80 (d, 1H, J=8.5 Hz), 6.77 (dd, 1H, J=8.0 Hz; J=1.7 Hz), 6.73-6.67 (m, 3H), 6.54-6.48 (m, 1H), 5.06 (dd, 1H, J=10.1 Hz; J=2.3 Hz), 4.85 (s, 2H), 2.99-2.87 (m, 1H), 2.73-2.61 (m, 1H), 2.19-2.09 (m, 1H), 2.03-1.90 (m, 1H).

reactant | 2-Nitro-1-(2-phenylchroman-6-yloxy)-benzene | 0.160 g | [N+](=O)([O-])C1=C(C=CC=C1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C21H17NO4
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
catalyst | Zinc | 1.190 g | [Zn] | Zn
product | 2-(2-Phenylchroman-6-yloxy)-aniline | C1(=CC=CC=C1)C1OC2=CC=C(C=C2CC1)OC1=C(N)C=CC=C1 | C21H19NO2
